US05500406
9.04 g (80 mmol) of creatinine was suspended in 50 ml of dimethylformamide, and 17.0 g (100 mmol) of n-propyl iodide was added thereto. Then, the mixture was heated and stirred within a range of from 70° C. to 80° C. until creatinine was completely dissolved. The mixture was left to cool, and 500 ml of ethyl acetate was added thereto. Precipitated crystals were collected by filtration to obtain 10.6 g of 1-methyl-3-n-propyl-2-iminoimidazolidin-4-one hydroiodide.

reactant | creatinine | 80 mmol, 9.04 g | CN1CC(=O)N=C1N | C4H7N3O
reactant | n-propyl iodide | 100 mmol, 17.0 g | C(CC)I | C3H7I
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-methyl-3-n-propyl-2-iminoimidazolidin-4-one hydroiodide | 10.6 g | I.CN1C(N(C(C1)=O)CCC)=N | InChI=1S/C7H13N3O.HI/c1-3-4-10-6(11)5-9(2)7(10)8;/h8H,3-5H2,1-2H3;1H
